Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1](=[C:2](/[C:6](=[O:5])[H:9])[C-:7]([N+:4]#[N:3])[H:10])\[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],39.6733808498928
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]([C+:2]([N:3]([C-:4]([C:5]#[C:6][H:11])[H:9])[H:8])[H:7])[H:10],43.3826796036474
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C-:2]1=[C:7]([H:17])[C:6]([H:15])([H:16])[C+:4]([O:5][H:14])[C:3]1([H:12])[H:13].[C:1]([H:8])([H:9])([H:10])[H:11],78.85186847619521
[C:2]1([H:9])([H:10])[C@@:3]2([H:11])[C@@:4]3([H:12])[C@:5]1([H:13])[C@:6]2([H:15])[O:7]3.[O:1]([H:8])[H:14]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],57.493702167029
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:7](=[C:6]([H:15])[H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],91.8506940944533
[C:1]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:13])[H:14])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],55.373256075351605
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])([C:6](=[O:7])[H:13])[H:9])[H:8],54.76554507435
[C:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[H:12])([C:7]1([H:17])[C:5]([H:15])=[C:6]1[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],37.49030941392289
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:4]1([H:12])[C@@:2]([O:3][H:11])([C:6](=[O:7])[H:13])[O:5]1)([H:8])([H:9])[H:10],51.7560681935349
[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:10])[C:5]([O:6][H:14])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9],68.1542900871681
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:3]([H:12])([H:13])[H:17])([C:4](=[C:5]([H:15])[H:16])[H:14])[H:11])([H:8])([H:9])[H:10],47.329778382367294
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:4](=[C:3])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],49.89757959763561
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:6](=[O:7])([H:13])[H:14].[N:1]([C:2](=[O:3])[H:15])([H:8])[H:9].[N:4](=[C:5]([H:11])[H:12])[H:10],77.6057658665935
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[N:7][c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]1[H:11],152.254908302485
[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8]>>[C:2](=[C:3]=[N+:4]=[N-:5])=[O:6].[N:1]([H:7])([H:8])[H:9],48.379966436347296
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]1[C@@:2]2([H:8])[N:3]([H:9])[C:4]([H:10])([H:11])[C@:5]1([H:13])[C:6]2=[C:7]([H:12])[H:14],116.285745254342
[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3])[C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9],53.9991855805433
[C:1]([C:2]([O+:6]=[C:5]([N:4]([C-:3]([H:13])[H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],13.5042359600982
[C:1]([C:2]#[C:3]/[C:4]([O:5][H:10])=[N:6]\[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],25.765843695289195
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([N:4]([H:13])[H:14])[H:12].[C:5](#[N:6])[H:9],81.4794118400151
[C:1]([N:2]([C:3](=[C:4]=[O:5])[H:13])[H:11])([H:8])([H:9])[H:10].[O:6]([C:7]([H:14])([H:15])[H:16])[H:12]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],24.063201426221113
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2](/[C:3](=[C:4](\[C:5]([H:16])([H:17])[H:18])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:19],60.2666419707336
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2](/[N:3]=[C:4](\[N:5]([H:12])[H:14])[C:6]#[N:7])[H:11])([H:9])[H:10].[H:8][H:13],89.14883425589001
